US09447078B2
Preparation of (R)-3-amino-1-(6-(cyclohexyloxy)pyridin-2-yl)propan-1-ol
Reduction of (R)-3-(6-(cyclohexyloxy)pyridin-2-yl)-3-hydroxypropanenitrile following the method described in Example 6 gave after flash chromatography purification (15%-25% 7N NH3/MeOH—CH2Cl2 gradient) Example 26 as a colorless oil. Yield (0.4 g, 33%); 1H NMR (400 MHz, CD3OD) δ 7.61 (t, J=7.8 Hz, 1H), 7.00 (d, J=7.6 Hz, 1H), 6.58 (d, J=8.4 Hz, 1H), 5.05-4.96 (m, 1H), 4.40-4.28 (m, 1H), 2.84 (t, J=6.8 Hz, 2H), 2.08-1.74 (m, 6H), 1.62-1.32 (m, 6H); RP-HPLC tR=7.04 min; ESI-MS m/z 251.2 [M+H]+.

reactant | (R)-3-(6-(cyclohexyloxy)pyridin-2-yl)-3-hydroxypropanenitrile | C1(CCCCC1)OC1=CC=CC(=N1)[C@@H](CC#N)O | C14H18N2O2
reactant | NH3 MeOH CH2Cl2 | 7N | N.CO.C(Cl)Cl
product | (R)-3-amino-1-(6-(cyclohexyloxy)pyridin-2-yl)propan-1-ol | NCC[C@@H](O)C1=NC(=CC=C1)OC1CCCCC1 | C14H22N2O2
